US08754215B2
KR2002076486 describes a process for preparation of praziquantel by reacting phenylethylamine with chloroacetyl chloride to obtain 2-chloro-N-phenethylacetamide. The compound 2-chloro-N-phenethylacetamide is then reacted with pthalimide to give 2-pthalimido-N-phenethylacetamide, which is then treated with hydrazine monohydrate to give 2-amino-N-phenylethylacetamide. On further treatment with bromoacetal, 2-amino-N-phenylethylacetamide gives 2-[2,2-dimethoxyethyl)amino]-N-(2-phenylethyl)acetamide. This compound on further cyclization and acylation using cyclohexanoylchloride forms praziquantel.

reactant | 2-chloro-N-phenethylacetamide | ClCC(=O)NCCC1=CC=CC=C1 | C10H12ClNO
reactant | pthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
product | 2-pthalimido-N-phenethylacetamide | C1(C=2C(C(N1CC(=O)NCCC1=CC=CC=C1)=O)=CC=CC2)=O | C18H16N2O3
